US09388176B2
4-(2-Amino-5,7-dihydro-pyrrolo[3,4-d]pyrimidin-6-yl)-pyridine-2-carboxylic acid phenylamide
To a solution of sodium ethoxide (0.18 mL, 0.56 mmol, 3M) in ethanol (10 mL) was added guanidine carbonate (50 mg, 0.56 mmol). The suspension was stirred for 45 minutes, then added to a suspension of 4-(3-((Dimethylamino)methylene)-4-oxopyrrolidin-1-yl)-pyridine-2-carboxylic acid phenylamide (95 mg, 0.28 mmol) in ethanol (10 mL). The reaction mixture was heated at 80° C. for 18 hours. Water (20 mL) was added and the mixture stirred for 1 hour. The solid was isolated by filtration and vacuum dried at 50° C. for 115 h and gave the title compound (44 mg, 0.13 mmol, 47%).

reactant | sodium ethoxide | 0.56 mmol, 3M, 0.18 mL | [O-]CC.[Na+]
reactant | guanidine carbonate | 0.56 mmol, 50 mg | C(O)(O)=O.NC(=N)N
reactant | 4-(3-((Dimethylamino)methylene)-4-oxopyrrolidin-1-yl)-pyridine-2-carboxylic acid phenylamide | 0.28 mmol, 95 mg | C1(=CC=CC=C1)NC(=O)C1=NC=CC(=C1)N1CC(C(C1)=O)=CN(C)C | C19H20N4O2
reactant | Water | 20 mL | O | H2O
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 4-(2-Amino-5,7-dihydro-pyrrolo[3,4-d]pyrimidin-6-yl)-pyridine-2-carboxylic acid phenylamide | 0.13 mmol, 44 mg, 47% | C1(=CC=CC=C1)NC(=O)C1=NC=CC(=C1)N1CC=2N=C(N=CC2C1)N | C18H16N6O
